US07968570B2
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester
7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid (170.00 mg, 0.465 mmol) was mixed with potassium carbonate (193.0 mg, 1.40 mmol) and methyl iodide (199.0 mg, 1.40 mmol) in DMF (2.0 mL) over a weekend. The reaction mixture was diluted with ethyl acetate, and washed with water, brine, dried over sodium sulfate, filtered and concentrated to provide the title compound.

reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid | 0.465 mmol, 170.00 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C18H14F3NO4
reactant | potassium carbonate | 1.40 mmol, 193.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.40 mmol, 199.0 mg | CI | CH3I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C19H16F3NO4
